US09023852B2
b) 1-[2-(3-Methoxy-phenyl)-ethyl]-4-(3-pyridin-4-yl-[1,2,4]thiadiazol-5-yl)-piperazine
A mixture of 5-chloro-3-(pyridin-4-yl)-1,2,4-thiadiazole (42 mg, 213 μmol), 1-(3-methoxyphenethyl)piperazine dihydrochloride (62.3 mg, 213 μmol) and DIPEA (137 mg, 186 μl, 1.06 mmol) in 10 mL EtOH was stirred for 2.5 h at RT the mixture was filtered, washed with EtOH and dried in vacuo at 50° C. for 2 hours to yield 12.6 mg (15%) of the title compounds as orange solid. MS (m/e): 382.2 (MH+).

reactant | 5-chloro-3-(pyridin-4-yl)-1,2,4-thiadiazole | 213 μmol, 42 mg | ClC1=NC(=NS1)C1=CC=NC=C1 | C7H4ClN3S
reactant | 1-(3-methoxyphenethyl)piperazine dihydrochloride | 213 μmol, 62.3 mg | Cl.Cl.COC=1C=C(CCN2CCNCC2)C=CC1
reactant | DIPEA | 1.06 mmol, 186 μl, 137 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | EtOH | 10 mL | CCO | C2H6O
product | 1-[2-(3-Methoxy-phenyl)-ethyl]-4-(3-pyridin-4-yl-[1,2,4]thiadiazol-5-yl)-piperazine | 12.6 mg, 15% | COC=1C=C(C=CC1)CCN1CCN(CC1)C1=NC(=NS1)C1=CC=NC=C1 | C20H23N5OS
